US05015651
(Cis- and trans-)ethyl 5-(1-propenyl)-1-[2'-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]pyrrole-2-carboxylate
To a solution of ethyl 5-(1-hydroxypropyl)-1-[2'-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]pyrrole-2-carboxylate (2.0 g, 3.0 mmol) in methylene chloride (100 ml) at 0° C. was added DBU (2.0 ml, 12.0 mmol) followed by methanesulfonyl chloride (0.7 ml, 9.0 mmol). The mixture was stirred overnight at room temperature whereupon an additional aliquot of DBU (2.0 ml) and methanesulfonyl chloride (0.7 ml) were added and the mixture was allowed to stir an additional 24 hours. The mixture was poured into a separatory funnel and washed with water (3×50 ml) and saturated aqueous sodium bicarbonate solution (50 ml) before being dried (MgSO4), filtered and concentrated. The crude residue was purified by flash chromatography on silica gel (150 g, 10-30% EtOAc/hexanes) to give the title compounds as a mixture of cis/trans isomers (ca. 1/4).

reactant | ethyl 5-(1-hydroxypropyl)-1-[2'-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]pyrrole-2-carboxylate | 3.0 mmol, 2.0 g | OC(CC)C1=CC=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC | C43H39N5O3
reactant | DBU | 12.0 mmol, 2.0 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methanesulfonyl chloride | 9.0 mmol, 0.7 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | DBU | 2.0 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methanesulfonyl chloride | 0.7 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 5-(1-propenyl)-1-[2'-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]pyrrole-2-carboxylate | C(=CC)C1=CC=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC | C43H37N5O2
